US06541470B1
5-Ethyl-8-isopropyl-11-phenyl-5,10-dihydro-11H-indeno[1,2-b]quinolin-10-one (Compound C44)
To a mixture of trimethylsilyl chloride (0.19 mL, 1.5 mmol), sodium iodide (224 mg, 1.5 mmol) and acetonitrile (61 mg, 1.5 mmol) was added dropwise a solution of 5-ethyl-8-isopropyl-11-hydroxy-11-phenyl-5,10-dihydro-11H-indeno[1,2-b]quinolin-10-one in 1,2-dichloroethane with stirring at room temperature. The mixture was stirred at 50° C. overnight followed by allowing to cool to room temperature. The reaction mixture was treated diluted aqueous solution of sodium sulfite. The separated organic layer was washed with water four times and then with saturated sodium chloride solution followed by drying with sodium sulfate. After removing the solvent, the residue was purified by silica gel-chromatography (chloroform) followed by crystallization from diethyl ether to give the title compound. 1H-NMR(CDCl3) δ 1.30(6H,d,CH(CH3)2), 1.79(3H,t,NCH2CH3), 3.05(1H,septet,CH), 4.81(2H,q,NCH2), 5.18(1H,s,H-11), 7.16-7.64(10H,m,Ar-H), 7.96(1H,d,H-6), 8.37(1H,d,H-9)

reactant | trimethylsilyl chloride | 1.5 mmol, 0.19 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium iodide | 1.5 mmol, 224 mg | [I-].[Na+]
reactant | acetonitrile | 1.5 mmol, 61 mg | C(C)#N | C2H3N
reactant | 5-ethyl-8-isopropyl-11-hydroxy-11-phenyl-5,10-dihydro-11H-indeno[1,2-b]quinolin-10-one | C(C)N1C2=C(C(C=3C=C(C=CC13)C(C)C)=O)C(C1=CC=CC=C12)(C1=CC=CC=C1)O | C27H25NO2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-Ethyl-8-isopropyl-11-phenyl-5,10-dihydro-11H-indeno[1,2-b]quinolin-10-one | C(C)N1C2=C(C(C=3C=C(C=CC13)C(C)C)=O)C(C1=CC=CC=C12)C1=CC=CC=C1 | C27H25NO
